US08138173B2
1-[2-(4-Benzylpiperazin-1-yl)ethyl]-4-chloro-2-phenyl-2H-pyrazolo[3,4-c]quinoline (0.32 g, 0.66 mmol) was refluxed in 5 mL of 6 N aqueous hydrochloric acid for 1 hour. The mixture was allowed to cool to ambient temperature, and the pH was adjusted to 10 with 10% w/v aqueous sodium carbonate. This mixture was concentrated under reduced pressure, and the residue was purified by automated flash chromatography eluting with a gradient of 0-15% CMA in chloroform. The residue was triturated with acetonitrile, isolated by filtration, and dried to afford 0.050 g of 1-[2-(4-benzylpiperazin-1-yl)ethyl]-2-phenyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one as off-white needles, mp 211-212.5° C. MS (ESI) m/z 464 (M+H)+; Anal. calcd for C29H29N5O: C, 75.14; H, 6.31; N, 15.11. Found: C, 74.84; H, 6.35; N, 15.04.

reactant | 1-[2-(4-Benzylpiperazin-1-yl)ethyl]-4-chloro-2-phenyl-2H-pyrazolo[3,4-c]quinoline | 0.66 mmol, 0.32 g | C(C1=CC=CC=C1)N1CCN(CC1)CCC=1N(N=C2C(=NC=3C=CC=CC3C21)Cl)C2=CC=CC=C2 | C29H28ClN5
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | hydrochloric acid | 6 N, 5 mL | Cl | ClH
product | 1-[2-(4-benzylpiperazin-1-yl)ethyl]-2-phenyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one | 0.050 g | C(C1=CC=CC=C1)N1CCN(CC1)CCC=1N(N=C2C(NC=3C=CC=CC3C21)=O)C2=CC=CC=C2 | C29H29N5O
